US04105776
By substituting 1-(3-mercapto-2-benzylpropanoyl)-L-proline for the 1-(3-mercaptopropanoyl)-L-proline in the procedure of Example 65, 1-[3-[[(ethylamino)carbonyl]thio]-2-benzylpropanoyl]-L-proline is obtained.

reactant | 1-(3-mercapto-2-benzylpropanoyl)-L-proline | SCC(C(=O)N1[C@H](C(=O)O)CCC1)CC1=CC=CC=C1 | C15H19NO3S
reactant | 1-(3-mercaptopropanoyl)-L-proline | SCCC(=O)N1[C@H](C(=O)O)CCC1 | C8H13NO3S
product | 1-[3-[[(ethylamino)carbonyl]thio]-2-benzylpropanoyl]-L-proline | C(C)NC(=O)SCC(C(=O)N1[C@H](C(=O)O)CCC1)CC1=CC=CC=C1 | C18H24N2O4S
